US04067723
A solution of bromine (5.3 ml.) in ethyl acetate (5.3 ml.) was added over 15 minutes to a refluxing solution of 6-(2-methylbenzyl)-2,3,4,5-tetrahydropyridaz-3-one (prepared as described above; 19.2 g.) in ethyl acetate (150 ml.). Heating under reflux was continued for a further 15 minutes. The reaction mixture was then cooled to 0° C. and filtered. Solid 2,3-dihydro-6-(2-methylbenzyl)pyridaz-3-one hydrobromide thus obtained was washed with n-hexane, dried in vacuo, added to an excess of aqueous sodium bicarbonate solution, stirred with a magnetic stirrer for one hour and filtered. The residue was washed with water and dried in air at 60° C. to give 2,3-dihydro-6-(2-methylbenzyl)pyridaz-3-one (13.9 g.) in the form of a fawn coloured powder, m.p. 139°-141° C.

reactant | bromine | 5.3 ml | BrBr | Br2
reactant | 6-(2-methylbenzyl)-2,3,4,5-tetrahydropyridaz-3-one | 19.2 g | CC1=C(CC=2CCC(NN2)=O)C=CC=C1 | C12H14N2O
solvent | ethyl acetate | 5.3 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 2,3-dihydro-6-(2-methylbenzyl)pyridaz-3-one hydrobromide | Br.CC1=C(CC=2C=CC(NN2)=O)C=CC=C1 | InChI=1S/C12H12N2O.BrH/c1-9-4-2-3-5-10(9)8-11-6-7-12(15)14-13-11;/h2-7H,8H2,1H3,(H,14,15);1H
